US04938793
5-Methylpyrimidine-2-carboxaldehyde was prepared from 2-hydroxymethyl-5-methylpyrimidine by oxidation with excess manganese dioxide in boiling chloroform. The product was obtained as colourless crystals and was characterized by proton nuclear magnetic resonance spectroscopy. Proton nuclear magnetic resonance spectrum (CDCl3 ; δ in ppm): 2.44 (3H,s); 8.80 (2H,s); 10.06 (1H,s).

reactant | 2-hydroxymethyl-5-methylpyrimidine | OCC1=NC=C(C=N1)C | C6H8N2O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Methylpyrimidine-2-carboxaldehyde | CC=1C=NC(=NC1)C=O | C6H6N2O
